US08912186B2
By a procedure similar to that of example 1.59.2, starting from 3-(4-chlorophenyl)-1-(4-methoxymethoxy-phenyl)prop-2-en-1-one and dimethyl malonate, dimethyl 2-(1-(4-chlorophenyl)-3-(4-(methoxymethoxy)phenyl)-3-oxopropyl)malonate was obtained as colourless solid.

reactant | 3-(4-chlorophenyl)-1-(4-methoxymethoxy-phenyl)prop-2-en-1-one | ClC1=CC=C(C=C1)C=CC(=O)C1=CC=C(C=C1)OCOC | C17H15ClO3
reactant | dimethyl malonate | C(CC(=O)OC)(=O)OC | C5H8O4
product | dimethyl 2-(1-(4-chlorophenyl)-3-(4-(methoxymethoxy)phenyl)-3-oxopropyl)malonate | ClC1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)OCOC)C(C(=O)OC)C(=O)OC | C22H23ClO7
